US08685974B2
To a solution of 3-(5-chloro-2-thienyl)-1-isobutyl-1H-pyrazole (1 eq, 0.045 mol) in dry N,N-dimethylformamide (130 mL) was added N-bromosuccinimide (1.1 eq, 0.05 mol) slowly and the resulting mixture was stirred at room temperature for 3 h. After completion reaction monitored by TLC, the reaction mixture was poured into ice cold water and extracted with ethyl acetate. The combined organics layer were washed with water, brine, dried over anhydrous Na2SO4, filtered and evaporated to afford 12 g of 4-bromo-3-(5-chloro-2-thienyl)-1-isobutyl-1H-pyrazole (82% yield).

reactant | 3-(5-chloro-2-thienyl)-1-isobutyl-1H-pyrazole | 0.045 mol, 1 eq | ClC1=CC=C(S1)C1=NN(C=C1)CC(C)C | C11H13ClN2S
reactant | N-bromosuccinimide | 0.05 mol, 1.1 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 130 mL | CN(C=O)C | C3H7NO
product | 4-bromo-3-(5-chloro-2-thienyl)-1-isobutyl-1H-pyrazole | 12 g, 82% yield | BrC=1C(=NN(C1)CC(C)C)C=1SC(=CC1)Cl | C11H12BrClN2S
